US04472435
A solution of 5.0 g (16.68 mmol) of 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one and 1.74 g (22.02 mmol) of hydroxylamine hydrochloride in 50 ml of pyridine is heated to reflux for 2 hours under argon. After cooling, the mixture is taken up in 600 ml chloroform/ethanol (4:1) and washed with 250 ml of water. The aqueous phase is adjusted to pH 8, saturated with sodium chloride and extracted with chloroform overnight in a perforator. After drying and evaporating the solvent, the residue is suspended in hot tert.-butyl methyl ether and filtered off. There is obtained 2,4'-diamino-2'-[o-chloro-α-(hydroxyimino)benzyl]-N-methylacetanilide of melting point 150° (decomposition).

reactant | 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 16.68 mmol, 5.0 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)Cl)C1 | C16H14ClN3O
reactant | hydroxylamine hydrochloride | 22.02 mmol, 1.74 g | Cl.NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform ethanol | 600 ml | C(Cl)(Cl)Cl.C(C)O
product | 2,4'-diamino-2'-[o-chloro-α-(hydroxyimino)benzyl]-N-methylacetanilide | NCC(=O)N(C1=C(C=C(C=C1)N)C(C1=C(C=CC=C1)Cl)=NO)C | C16H17ClN4O2
